US09403818B2
4-chloro-2-(1-cyclopropyl-2-methoxyvinyl)-3-methoxy-pyridine (259 mg, 1.1 mmol) was dissolved in THF (10 ml) and cooled to 0° C. 4M sulfuric acid (2.7 ml, 10 mmol) was added and the reaction was performed at reduced pressure while heating at 50° C. for 2.5 h. The mixture was diluted in ice water (10 mL) and sodium bicarbonate added until neutralized. The mixture was washed with DCM (3×10 mL) and the organic phase dried, filtered and evaporated to dryness to obtain 2-(4-chloro-3-methoxy-pyridin-2-yl)-2-cyclopropyl-acetaldehyde as a yellow oil (233 mg) to be used without further purification.

reactant | 4-chloro-2-(1-cyclopropyl-2-methoxyvinyl)-3-methoxy-pyridine | 1.1 mmol, 259 mg | ClC1=C(C(=NC=C1)C(=COC)C1CC1)OC | C12H14ClNO2
reactant | sulfuric acid | 10 mmol, 4M, 2.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(4-chloro-3-methoxy-pyridin-2-yl)-2-cyclopropyl-acetaldehyde | 233 mg | ClC1=C(C(=NC=C1)C(C=O)C1CC1)OC | C11H12ClNO2
